*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXE250ARA561MJH0G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT HHXE250ARA561MJH0G_20deg-C 1 2

C1 4 2 3.11e-04
C2 5 2 1.33e-04
C3 6 2 6.23e-05
R1 3 4 1.10e-02
R2 4 5 3.83e-02
R3 5 6 6.31e-01
L1 1 3 5.00e-09

.ENDS
*$
